US06936608B2
A solution of 1-(2-fluoro-4-nitrophenyl)-1H-pyrazole (3 g, 14.5 mmol) and platinum(IV) oxide (100 mg) in ethanol (100 ml) with ethyl acetate (100 ml) was reduced under 40 psi hydrogen for 30 min, then filtered and the solvent removed, to give 5-fluoro-4-(pyrazol-1-yl)phenylamine as a colourless oil: MS (ES+) m/z 178 [M+H]+.

reactant | 1-(2-fluoro-4-nitrophenyl)-1H-pyrazole | 14.5 mmol, 3 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1N=CC=C1 | C9H6FN3O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum(IV) oxide | 100 mg | [Pt](=O)=O
product | 5-fluoro-4-(pyrazol-1-yl)phenylamine | FC=1C(=CC=C(C1)N)N1N=CC=C1 | C9H8FN3
